US08003806B2
3-{6-[(2-Bromo-5-methoxybenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
Using the procedure of Preparation 21, the title compound (56 mg) was prepared from ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate and 2-bromo-5-methoxybenzoic acid, and purified by RP-HPLC. [LCMS (Method A, Mobile Phase I) RT=4.35 min, MH+ 496].

reactant | ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC=1C=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C1 | C18H19N3O2
reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
product | 3-{6-[(2-Bromo-5-methoxybenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | 56 mg | BrC1=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C2)C=C(C=C1)OC | C24H20BrN3O4
